US05216156
2-Chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine
A mixture of 57.7 g (0.448 mol) of 70% aqueous tert-butyl hydroperoxide, 250 ml of cyclohexane and 100 ml of saturated sodium chloride solution is agitated vigorously and the organic layer is then separated and dried over anhydrous magnesium sulfate. The drying agent is removed by filtration. The filtrate, 30.0 g (0.056 mol) of 2-chloro-4,6-bis[N-(2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine and 1.0 g of molybdenum trioxide are placed in a pressure bottle and heated at 130°-140° C. The reaction mixture quickly turns red and heating is continued till the red color is discharged. The reaction mixture is allowed to cool and solids are removed by filtration. The filtrate is concentrated under reduced pressure to give an oil which is purified by flash chromatography on silica gel to afford 30.3 g. (74% yield) of the title compound as a white glass.

reactant | tert-butyl hydroperoxide | 0.448 mol, 57.7 g | C(C)(C)(C)OO | C4H10O2
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | 2-chloro-4,6-bis[N-(2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine | 0.056 mol, 30.0 g | ClC1=NC(=NC(=N1)NCCCCC1CC(NC(C1)(C)C)(C)C)NCCCCC1CC(NC(C1)(C)C)(C)C | C29H54ClN7
catalyst | molybdenum trioxide | 1.0 g | [Mo](=O)(=O)=O
solvent | cyclohexane | 250 ml | C1CCCCC1 | C6H12
product | 2-Chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-s-triazine | 74% yield | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C41H74ClN7O2
